US09422281B2
A 100-mL round bottomed flask fitted with a nitrogen inlet and magnetic stir bar was charged with (S)-tert-butyl 7-bromo-3-methyl-3,4-dihydroquinoxaline-1(2H)-carboxylate (4.75 g, 14.52 mmol), dichloromethane (50 mL), pyridine (1.996 mL, 24.68 mmol), and cyclopropanecarbonyl chloride (1.976 mL, 21.77 mmol). The reaction mixture was stirred at rt for 2 h and then 1 M aqueous HCl solution (25 mL) was added. The organic layer was separated and concentrated under reduced pressure to afford (S)-tert-butyl 7-bromo-4-(cyclopropanecarbonyl)-3-methyl-3,4-dihydroquinoxaline-1(2H)-carboxylate (5.72 g, 99%) as a solid, which was used directly in next step. MS (ESI, pos. ion) m/z 395, 397 [M+1]+.

reactant | (S)-tert-butyl 7-bromo-3-methyl-3,4-dihydroquinoxaline-1(2H)-carboxylate | 14.52 mmol, 4.75 g | BrC1=CC=C2N[C@H](CN(C2=C1)C(=O)OC(C)(C)C)C | C14H19BrN2O2
reactant | pyridine | 24.68 mmol, 1.996 mL | N1=CC=CC=C1 | C5H5N
reactant | cyclopropanecarbonyl chloride | 21.77 mmol, 1.976 mL | C1(CC1)C(=O)Cl | C4H5ClO
reactant | HCl | 1 M, 25 mL | Cl | ClH
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | (S)-tert-butyl 7-bromo-4-(cyclopropanecarbonyl)-3-methyl-3,4-dihydroquinoxaline-1(2H)-carboxylate | 5.72 g, 99% | BrC1=CC=C2N([C@H](CN(C2=C1)C(=O)OC(C)(C)C)C)C(=O)C1CC1 | C18H23BrN2O3
